US09193707B2
4. Synthesis of 4-chloro-6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline
Into a 500-mL round-bottom flask, was placed 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol (8.0 g, 24.22 mmol, 1.00 equiv), dichloromethane (200 mL) and N,N-dimethylformamide (0.5 mL). This was followed by the addition of (COCl)2 (23.74 g) dropwise with stirring. The resulting solution was stirred for 1 h at 40° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was dissolved in 100 mL of dichloromethane. The resulting mixture was washed with 2×100 mL of NaHCO3 (sat.) and 1×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by ethyl acetate:petroleum ether in ratio of (1:5). This resulted in 5 g (59%) of 4-chloro-6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline as a white solid. MS (ESI) m/z 349 ([M+H]+).

reactant | 6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol | 24.22 mmol, 8.0 g, 1.00 equiv | FC=1C=C2C(=NC(=NC2=CC1)C1=CC(=C(C(=C1)OC)OC)OC)O | C17H15FN2O4
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | (COCl)2 | 23.74 g | C(=O)(C(=O)Cl)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-chloro-6-fluoro-2-(3,4,5-trimethoxyphenyl)quinazoline | ClC1=NC(=NC2=CC=C(C=C12)F)C1=CC(=C(C(=C1)OC)OC)OC | C17H14ClFN2O3
